US06660753B2
In a similar fashion, 3-(2-pyridyl)-5-(3-cyano-5-hydroxyphenyl) -1,2,4-oxadiazole (31 mg, 0.12 mmol), potassium carbonate (381mg, 2.8 mmol) and 2-dimethylaminopropyl chloride hydrochloride (51 mg, 0.32 mmol) in N,N-dimethylformamide (1 mL) were heated in a sealed vial at 150° C. for 5 minutes. Standard work up and chromatography afforded 10 mg (24%) of 3-(2-pyridyl)-5-(3-cyano-5-(dimethylaminopropoxy)phenyl) -1,2,4-oxadiazole: 1H NMR (CDCl3): δ-8.86 (d, 1H), 8.23 (d, 1H), 8.14 (s, 1H), 8.03 (s, 1H), 7.91 (t, 1H), 7.49 (m, 1H), 7.41 (s, 1H), 4.17 (t, 2H), 2.49 (t, 2H), 2.28 (s, 6H), 2.02 (q, 2H).

reactant | 3-(2-pyridyl)-5-(3-cyano-5-hydroxyphenyl) -1,2,4-oxadiazole | 0.12 mmol, 31 mg | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)O)C#N | C14H8N4O2
reactant | potassium carbonate | 2.8 mmol, 381mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-dimethylaminopropyl chloride hydrochloride | 0.32 mmol, 51 mg | Cl.CN(C(CCl)C)C
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 3-(2-pyridyl)-5-(3-cyano-5-(dimethylaminopropoxy)phenyl) -1,2,4-oxadiazole | 10 mg, 24% | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)OCCCN(C)C)C#N | C19H19N5O2
